US04297366
96 ml of a 20% strength solution of n-butyl-lithium in hexane were added dropwise to a suspension of 82.2 g (0.2 mol) of dry 3,3-dimethylallyl-triphenylphosphonium bromide in 300 ml of anhydrous tetrahydrofuran at 0° C. under nitrogen, while stirring. The deep red solution thus obtained was stirred at 0° C. for a further 15 minutes and 28.4 g (0.2 mol) of trifluoroacetic acid ethyl ester were then added dropwise at 0°-10° C. The mixture was then stirred at room temperature until it was almost decolorized (about 12 hours). 600 ml of water were then added to the reaction mixture and the mixture was extracted 5 times with 200 ml of petroleum ether each time. The petroleum ether phases were dried over magnesium sulphate and the solvent was then stripped off in a rotary evaporator under a waterpump vacuum. 150 ml of n-hexane were added to the residue and the mixture was then filtered. The solvent was subsequently distilled off from the filtrate under normal pressure and the oily residue was then distilled in vacuo. 16.2 g (41.8% of theory) of 1,1,1-trifluoro-2-ethoxy-5-methyl-2,4-hexadiene were obtained as a slightly yellowish liquid with a boiling point of 72° C./36 mbar.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 3,3-dimethylallyl-triphenylphosphonium bromide | 0.2 mol, 82.2 g | [Br-].CC(=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | trifluoroacetic acid ethyl ester | 0.2 mol, 28.4 g | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | water | 600 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-2-ethoxy-5-methyl-2,4-hexadiene | 16.2 g, 41.8% | FC(C(=CC=C(C)C)OCC)(F)F | C9H13F3O
